US07576218B2
In a 4 mL vial was added 50 mg of 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid (0.11 mmol, 1.0 equiv), 14 μL of 1-methylpiperazine (0.13 mmol, 1.2 equiv), 60 μL TEA (0.43 mmol, 4.00 equiv), 71 mg BOP (0.16 mmol, 1.5 equiv), and 500 μL NMP. The mixture was stirred overnight at room temperature and the crude product was purified by reversed phase HPLC (acetonitrile—H2O with 0.1% TFA as the eluent) to yield 2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-chloro-phenyl)-4-(4-methyl-piperazine-1-carbonyl)-piperidin-1-yl]-ethanone: MS (ES) M+H expected=546.4, found=546.1.

reactant | 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid | 0.11 mmol, 50 mg, 1.0 equiv | ClC=1C(=NN(C1C)CC(=O)N1CCC(CC1)(C(=O)O)C1=CC=C(C=C1)Cl)C(F)(F)F | C19H18Cl2F3N3O3
reactant | 1-methylpiperazine | 0.13 mmol, 14 μL, 1.2 equiv | CN1CCNCC1 | C5H12N2
reactant | BOP | 0.16 mmol, 71 mg, 1.5 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | NMP | 500 μL | CN1CCCC1=O | C5H9NO
product | 2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-chloro-phenyl)-4-(4-methyl-piperazine-1-carbonyl)-piperidin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCC(CC1)(C(=O)N1CCN(CC1)C)C1=CC=C(C=C1)Cl)C(F)(F)F | C24H28Cl2F3N5O2
